US08975265B2
A mixture of 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid [prepared in a manner analogous to that described in Int-20-0] (750 mg, 1.55 mmol), N-methyl-O-methyl-hydroxlyamine HCl salt (227 mg, 2.33 mmol, 1.5 equiv) N,N-diisopropylethylamine (1.6 mL, 9.30 mmol, 6.0 equiv) and PyBOP (1.01 g, 1.94 mmol, 1.25 equiv) in DMF (23 mL) was stirred at room temperature for 24 h. The resulting mixture was added to ice water (25 mL). The resulting mixture was extracted with EtOAc (4×25 mL). The combined organic phases were washed with water (2×50 mL), dried (Na2SO4 anh) and concentrated under reduced pressure. The remaining material was purified using MPLC (Biotage Isolera; 25 g SNAP cartridge: 100% hexane for 1 min., gradient to 75% hexane/25% EtOAc over 1 min., 75% hexane/25% EtOAc for 3 min., gradient to 50% hexane/50% EtOAc over 1 min., 50% hexane/50% EtOAc for 4.5 min, gradient to 25% hexane/75% EtOAc over 2.5 min., gradient to 100% EtOAc over 2 min., 100% EtOAc for 10.6 min.) to give (1-{4-[7-(methoxy-methyl-carbamoyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester (679 mg, 76%):

reactant | 2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridine-7-carboxylic acid | C(C)(C)(C)OC(=O)NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1C1=CC=CC=C1 | C29H29N3O4
reactant | PyBOP | 1.94 mmol, 1.01 g, 1.25 equiv | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DMF | 23 mL | CN(C)C=O | C3H7NO
product | (1-{4-[7-(methoxy-methyl-carbamoyl)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester | 679 mg, 76% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C(N(C)OC)=O)C1C1=CC=CC=C1)=O | C31H34N4O4
